US05075330
To a suspension of 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine (1,2 g, 3.5 mmol) and sodium acetate (730 mg, 8.9 mmol) in 120 ml of 1,4-dioxane and 30 ml of water is added dropwise acetyl chloride (420 μl, 5.9 mmol) at 0° C. After 10 minutes additional acetyl chloride (40 ul, 0.6 mmol) is added. The reaction mixture is stirred for 15 minutes, and then is diluted with ethyl acetate. It is washed once with a dilute solution of sodium bicarbonate, once with water, and a saturated solution of sodium chloride The organic phase is further dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue is purified by column chromatography on silica gel, eluting first with 1:4 ethyl acetate:methylene chloride then 1:1 ethyl acetate:methylene chloride. Recrystallization from isopropyl ether gives N-[[1-(4-chlorobenzoyl) -5-methoxy-2-methyl-lH-indol-3-yl]methyl]-N-hydroxy-acetamide (645 mg, 47%); mp 160°-161° C.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | 3.5 mmol, 1,2 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | sodium acetate | 8.9 mmol, 730 mg | C(C)(=O)[O-].[Na+]
reactant | acetyl chloride | 5.9 mmol, 420 μl | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.6 mmol, 40 ul | C(C)(=O)Cl | C2H3ClO
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[[1-(4-chlorobenzoyl) -5-methoxy-2-methyl-lH-indol-3-yl]methyl]-N-hydroxy-acetamide | 645 mg, 47% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(C)=O)O)C)C=C1 | C20H19ClN2O4
